US07084123B2
To a solution of 4-[(4-ethylthiophenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-methyl-1H-pyrazole (0.03 g) in 2,4,6-trimethylpyridine (0.5 mL) was added ethyl chloroformate (0.021 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 10% aqueous citric acid solution, and the resulting mixture was extracted with ethylacetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 1-ethoxycarbonyl-3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-ethylthiophenyl)methyl]-5-methylpyrazole (0.023 g).

reactant | 4-[(4-ethylthiophenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-methyl-1H-pyrazole | 0.03 g | C(C)SC1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C19H26N2O6S
reactant | ethyl chloroformate | 0.021 mL | ClC(=O)OCC | C3H5ClO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | 2,4,6-trimethylpyridine | 0.5 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 1-ethoxycarbonyl-3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-ethylthiophenyl)methyl]-5-methylpyrazole | 0.023 g | C(C)OC(=O)N1N=C(C(=C1C)CC1=CC=C(C=C1)SCC)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)COC(=O)OCC | C25H34N2O10S
